US05849217
(2) Preparation of 2-{4-(5-decylpyrimidine-2-yl) phenyl}ethylbenzylether
1.27 g (4.96 mmol) of 4-(2-benzyloxyethyl) phenylboronic acid, 1.26 g (4.96 mmol) of 2-chloro-5-decylpyrimidine, 0.19 g of tetrakis (triphenylphosphine) palladium, 8 ml of 2M sodium carbonate, 8 ml of toluene and 4 ml of ethanol were, under presence of nitrogen, heated at 80° C. for 3 hours. After the reactions had been completed, extraction with toluene was performed and the extracted solution was dried with anhydrous sodium sulfate. The solvent was removed by filtration and refining was performed by recrystallization (toluene/methanol) so that 1.65 g of 2-{4-(5-decylpyrimidine-2-yl) phenyl}ethylbenzylether was obtained (yield 77%).

reactant | 4-(2-benzyloxyethyl) phenylboronic acid | 4.96 mmol, 1.27 g | C(C1=CC=CC=C1)OCCC1=CC=C(C=C1)B(O)O | C15H17BO3
reactant | 2-chloro-5-decylpyrimidine | 4.96 mmol, 1.26 g | ClC1=NC=C(C=N1)CCCCCCCCCC | C14H23ClN2
reactant | sodium carbonate | 2M, 8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | 0.19 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-{4-(5-decylpyrimidine-2-yl) phenyl}ethylbenzylether | yield 77% | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)CCOCC1=CC=CC=C1 | C29H38N2O
